* ngspice channel smoke: amp1p5_edge50_r50
.temp 27
.options method=gear maxord=2 reltol=1e-4 abstol=1e-10 vntol=1e-6 gmin=1e-12
Vin   src  0  PWL(0 0 1n 0 1.05e-09 1.5 9n 1.5 9.05e-09 0)
Rsrc  src  p1  50
.include 'C:/Users/sh3qm/code/ibis_comparison/results/sparam_bbs_integration_v1_2026-06-16/channels/Clarity_example_4e655cc2/models/vector_3r3c/Clarity_example_4e655cc2_vector_3r3c.sp'
Xchannel  p1  p2  s_equivalent
Rterm  p2  0  50
.save V(p1) V(p2) V(src)
.tran 10p 1.2e-08
.end
